US05965738
Synthesis of 5-ethyl-2-imino-3-(4-iodobenzyl)-1,3,4-thiadiazoline hydrobromide
A solution of 2-amino-5-ethyl-1,3,4-thiadiazole (42.6 g) and 4-iodobenzyl bromide (89.1 g) in ethanol (500 ml) was heated under reflux for 20 hours. After the reaction mixture was cooled, the crystals so precipitated were collected by filtration and then dried, whereby 83 g of the title compound was obtained.

reactant | 2-amino-5-ethyl-1,3,4-thiadiazole | 42.6 g | NC=1SC(=NN1)CC | C4H7N3S
reactant | 4-iodobenzyl bromide | 89.1 g | IC1=CC=C(CBr)C=C1 | C7H6BrI
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 5-ethyl-2-imino-3-(4-iodobenzyl)-1,3,4-thiadiazoline hydrobromide | 83 g | Br.C(C)C1=NN(C(S1)=N)CC1=CC=C(C=C1)I | InChI=1S/C11H12IN3S.BrH/c1-2-10-14-15(11(13)16-10)7-8-3-5-9(12)6-4-8;/h3-6,13H,2,7H2,1H3;1H
